### ISSUE TITLE
GreensOpenProblems: `answer( )` slots scoped outside the quantifier their value depends on — green_24, green_16, green_37, green_37_asymptotic, green_41 (and two `green_35` notes)

### ISSUE THREAD

**Issue by Kuberwastaken** [google-deepmind/formal-conjectures#5005]
## Summary

Six `research open` declarations in `GreensOpenProblems` put an `answer( )` slot in a position
where the value it must take **depends on a quantifier that encloses the slot**. Each one is
therefore either

* **false**, if the answer is required to be a closed term — which is what `answer( )` means in
  `with_auxiliary` mode, where it becomes the top-level definition `<decl>._answer`; or
* **trivial**, if the answer may capture the enclosing binder, since then it can be the target
  expression itself.

In neither reading does the declaration ask Green's question. Four of the five in Part A come
with a machine-checked disproof of the closed-answer reading, reproduced in full below.

This is the defect the repository's own `AnswerLinter` describes — *"Move the quantifiers
outward … likely the intention was `theorem foo : answer(sorry) ↔ ∀ᵉ (bar : ℕ) …"* — but its
`stars_with_answer_sorry_iff` check only inspects statements of the form
`answer(sorry) ↔ …`, and none of these has that shape, so it never fires. Related: #33, #1407,
#4923.

**Not reported here.** `green_25`, `green_51` and `green_27.equivalent` *are* closable by `rfl` /
`IsEquivalent.refl` with genuinely closed answers, but that is the case CONTRIBUTING explicitly
places out of scope ("one can provide trivial answers that aren't mathematically interesting,
e.g. the set `{n : ℕ | P n}` itself … outside of the scope of this repository"), and #33 already
tracks it as a design question. The items below are different: no answer, trivial or otherwise,
makes them true.

The underlying mathematics is untouched throughout. Every one of Green's questions is exactly as
open as before; these are statements about what the Lean declarations assert.

**Machine-checking method.** No `lake build` was available on this machine (insufficient disk for
the full build; only the `FormalConjecturesUtil` / `FormalConjecturesForMathlib` oleans were
present). Each proof below was checked by copying the relevant definitions **verbatim** from
`main` @ `638da20e` into a standalone file importing `FormalConjecturesUtil`, and running

```
lean -DautoImplicit=false -DrelaxedAutoImplicit=false -DwarningAsError=true probe.lean
```

against Mathlib v4.27.0 — exit code 0, no `sorry`, no errors, no warnings. That checks the
mathematics against the real definitions; it does not check that the files themselves still
build, since I did not build them.

---

# Part A — five slots no closed term can fill

- [ ] **`green_24`** — https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/GreensOpenProblems/24.lean#L52-L54

  ```lean
  theorem green_24 : ∀ n, max013AffineTranslates n = answer(sorry) := by sorry
  ```

  The slot has type `ℕ` and sits under `∀ n`, so a closed answer asserts that
  `max013AffineTranslates` is **constant**. It is not: `max013AffineTranslates 0 = 0` (the only
  `A : Finset ℤ` with `A.card = 0` is `∅`), while `A = {0, 1, 3}` already contributes the pair
  `(0, 1)` — `0 + 3·(1 − 0) = 3 ∈ A` — so `1 ≤ max013AffineTranslates 3`.

  ```lean
  theorem max013_zero : max013AffineTranslates 0 = 0 := by
    have h : { k | ∃ A : Finset ℤ, A.card = 0 ∧
        k = ((A ×ˢ A).filter (fun (x, y) ↦ x ≠ y ∧ x + 3 * (y - x) ∈ A)).card } = {0} := by
      ext k
      constructor
      · rintro ⟨A, hA, rfl⟩
        rw [Finset.card_eq_zero.mp hA]
        simp
      · rintro rfl
        exact ⟨∅, by simp, by simp⟩
    rw [max013AffineTranslates, h, csSup_singleton]

  theorem max013_three : 1 ≤ max013AffineTranslates 3 := by
    apply le_csSup
    · refine ⟨9, ?_⟩
      rintro k ⟨A, hA, rfl⟩
      calc ((A ×ˢ A).filter (fun (x, y) ↦ x ≠ y ∧ x + 3 * (y - x) ∈ A)).card
          ≤ (A ×ˢ A).card := Finset.card_filter_le _ _
        _ = A.card * A.card := Finset.card_product _ _
        _ = 9 := by rw [hA]
    · exact ⟨({0, 1, 3} : Finset ℤ), by decide, by decide⟩

  theorem green_24_no_closed_answer : ¬ ∃ a : ℕ, ∀ n, max013AffineTranslates n = a := by
    rintro ⟨a, ha⟩
    have h0 := ha 0
    have h3 := ha 3
    rw [max013_zero] at h0
    rw [← h0] at h3
    have := max013_three
    omega
  ```

  *Suggested fix.* Green's Problem 24 asks for the growth rate, and the file already records the
  conjecture as `variants.conjecture : gamma = 1/3`. Either make the answer a function,
  `= (answer(sorry) : ℕ → ℕ) n` — the idiom used correctly in `OpenQuantumProblems/13.lean`,
  `IsMaxMUBCount d ((answer(sorry) : ℕ → ℕ) d)` — or drop the pointwise headline in favour of
  the asymptotic statement.

- [ ] **`green_16`** — https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/GreensOpenProblems/16.lean#L43-L49

  ```lean
  theorem green_16 (N : ℕ) :
      ∃ A : Finset ℕ, A ⊆ Icc 1 N ∧ SolutionFree A ∧
        A.card = answer(sorry) ∧
        MaximalFor (fun B => B ⊆ Icc 1 N ∧ SolutionFree B) Finset.card A := by sorry
  ```

  `N` is a theorem binder, so a closed answer asserts that the maximum solution-free
  cardinality is the same for every `N`. At `N = 0`, `Icc 1 0 = ∅` forces `A = ∅` and the answer
  to be `0`; at `N = 1`, `{1}` is solution-free (four *distinct* elements are needed to violate
  `SolutionFree`, and `{1}` has one), so `MaximalFor` rules out `∅`.

  ```lean
  theorem green_16_no_closed_answer : ¬ ∃ a : ℕ, ∀ N : ℕ,
      ∃ A : Finset ℕ, A ⊆ Finset.Icc 1 N ∧ SolutionFree A ∧
        A.card = a ∧
        MaximalFor (fun B => B ⊆ Finset.Icc 1 N ∧ SolutionFree B) Finset.card A := by
    rintro ⟨a, ha⟩
    obtain ⟨A0, hA0sub, -, hA0card, -⟩ := ha 0
    have hA0 : A0 = ∅ := Finset.subset_empty.mp (by simpa using hA0sub)
    have ha0 : a = 0 := by rw [← hA0card, hA0]; simp
    obtain ⟨A1, -, -, hA1card, hA1max⟩ := ha 1
    have hsub : ({1} : Finset ℕ) ⊆ Finset.Icc 1 1 := by decide
    have hsf : SolutionFree ({1} : Finset ℕ) := by
      intro x hx y hy z hz w hw hnd
      simp only [Finset.mem_singleton] at hx hy hz hw
      subst hx; subst hy; subst hz; subst hw
      simp at hnd
    have hle : A1.card ≤ ({1} : Finset ℕ).card := by rw [hA1card, ha0]; simp
    have := hA1max.2 ⟨hsub, hsf⟩ hle
    rw [hA1card, ha0] at this
    simp at this
  ```

  *Suggested fix.* `A.card = (answer(sorry) : ℕ → ℕ) N`, i.e. answer with the function `f` the
  file already defines two lines above.

- [ ] **`green_37`** — https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/GreensOpenProblems/37.lean#L46-L50

  ```lean
  theorem green_37 (N k : ℕ) :
      IsLeast { m | ∃ A : Finset ℕ, A.card = m ∧ IsAPCover (A : Set ℕ) N k } (answer(sorry)) := by
    sorry
  ```

  `N` and `k` are binders and the slot has type `ℕ`. At `k = 0` a `0`-term AP is `∅`
  (`Set.IsAPOfLengthWith.zero`), so `∅` is a cover and the least element is `0`; at `k = 2` the
  empty set is not a cover, so `0` is not even a member.

  ```lean
  theorem apCover_zero (A : Set ℕ) (N : ℕ) : IsAPCover A N 0 := by
    intro d _
    exact ⟨0, ∅, Set.empty_subset _, by simp⟩

  theorem zero_mem (N : ℕ) :
      (0 : ℕ) ∈ { m | ∃ A : Finset ℕ, A.card = m ∧ IsAPCover (A : Set ℕ) N 0 } :=
    ⟨∅, rfl, by simpa using apCover_zero _ N⟩

  theorem empty_not_cover (N : ℕ) (hN : 1 ≤ N) : ¬ IsAPCover (∅ : Set ℕ) N 2 := by
    intro h
    obtain ⟨a, s, hs, hcard, -⟩ := h 1 ⟨le_refl 1, hN⟩
    rw [Set.subset_empty_iff] at hs
    subst hs
    simp at hcard

  theorem green_37_no_closed_answer :
      ¬ ∃ a : ℕ, ∀ N k : ℕ,
        IsLeast { m | ∃ A : Finset ℕ, A.card = m ∧ IsAPCover (A : Set ℕ) N k } a := by
    rintro ⟨a, ha⟩
    have h0 : a = 0 := Nat.le_zero.mp ((ha 1 0).2 (zero_mem 1))
    obtain ⟨A, hAcard, hAcov⟩ := (ha 1 2).1
    rw [h0, Finset.card_eq_zero] at hAcard
    subst hAcard
    exact empty_not_cover 1 le_rfl (by simpa using hAcov)
  ```

  *Suggested fix.* `IsLeast { … } ((answer(sorry) : ℕ → ℕ → ℕ) N k)`.

- [ ] **`green_37_asymptotic`** — https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/GreensOpenProblems/37.lean#L52-L59

  ```lean
  theorem green_37_asymptotic (k : ℕ) :
      ∀ᶠ N in atTop, (m N k : ℝ) = (answer(sorry) : ℕ → ℝ) N := by sorry
  ```

  Same defect one level up: the slot is a function of `N` but not of `k`, so a closed answer
  must describe `m · k` for **every** `k` at once. `m N 0 = 0` for all `N`, while `m N 1 ≠ 0`
  for `N ≥ 1` (a `1`-term AP is a singleton, so a `1`-cover must be non-empty).

  ```lean
  theorem m_zero (N : ℕ) : m N 0 = 0 := Nat.sInf_eq_zero.mpr (Or.inl (zero_mem N))

  theorem empty_not_cover_one (N : ℕ) (hN : 1 ≤ N) : ¬ IsAPCover (∅ : Set ℕ) N 1 := by
    intro h
    obtain ⟨a, s, hs, hap⟩ := h 1 ⟨le_rfl, hN⟩
    rw [Set.subset_empty_iff] at hs
    subst hs
    rw [show ((1 : ℕ) : ℕ∞) = 1 from rfl, Set.IsAPOfLengthWith.one] at hap
    exact (Set.singleton_ne_empty a) hap.symm

  theorem one_cover_nonempty (N : ℕ) :
      { m | ∃ A : Finset ℕ, A.card = m ∧ IsAPCover (A : Set ℕ) N 1 }.Nonempty := by
    refine ⟨1, {0}, by simp, fun d _ => ⟨0, {0}, by simp, ?_⟩⟩
    rw [show ((1 : ℕ) : ℕ∞) = 1 from rfl, Set.IsAPOfLengthWith.one]

  theorem m_one_ne_zero (N : ℕ) (hN : 1 ≤ N) : m N 1 ≠ 0 := by
    intro h
    rcases Nat.sInf_eq_zero.mp h with h0 | hempty
    · obtain ⟨A, hA, hcov⟩ := h0
      rw [Finset.card_eq_zero] at hA
      subst hA
      exact empty_not_cover_one N hN (by simpa using hcov)
    · exact absurd hempty (Set.nonempty_iff_ne_empty.mp (one_cover_nonempty N))

  theorem green_37_asymptotic_no_closed_answer :
      ¬ ∃ g : ℕ → ℝ, ∀ k : ℕ, ∀ᶠ N in atTop, (m N k : ℝ) = g N := by
    rintro ⟨g, hg⟩
    obtain ⟨N, ⟨hN0, hN1'⟩, hN1⟩ :=
      (((hg 0).and (hg 1)).and (eventually_ge_atTop 1)).exists
    rw [m_zero N] at hN0
    rw [← hN0] at hN1'
    exact m_one_ne_zero N hN1 (by exact_mod_cast hN1')
  ```

  *Suggested fix.* `(answer(sorry) : ℕ → ℕ → ℝ) k N`.

  The sibling `green_37_theta` has the same scoping (its reflexive witness
  `fun N ↦ (m N k : ℝ)` mentions `k`), but there I cannot rule out a single closed function
  serving every `k` up to `Θ`, so I make no claim about it. `green_37_bigO` /
  `green_37_littleO` are being handled in #4943.

- [ ] **`green_41`** — https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/GreensOpenProblems/41.lean#L64-L71

  ```lean
  theorem green_41 :
      ∃ C : ℝ, C > 0 ∧ ∃ ε₀ > 0, ∀ ε ∈ Ioc 0 ε₀,
        let ans := (answer(sorry) : ℝ)
        (minCopies ε : ℝ) ≤ ans ∧ ans < Real.exp (Real.exp (Real.exp (ε ^ (-C)))) := by sorry
  ```

  `ans` is a single real under `∀ ε ∈ Ioc 0 ε₀`, so with a closed answer the statement says
  `minCopies` is **bounded** on `(0, ε₀]` — which is the opposite of what Green asks (how the
  number of rotations grows as `ε → 0`), and false: `pyjamaSet ε` has planar density `2ε`, so a
  union of `n` rotated copies has upper density at most `2εn` and cannot be all of `ℂ` unless
  `n ≥ 1/(2ε)`. Hence `minCopies ε ≥ ⌈1/(2ε)⌉ → ∞`. *(This one I argue rather than machine-check
  — the density bound is standard but I did not formalise it.)*

  *Suggested fix.* The correct form is already eight lines below, in
  `green_41.variants.exists_better_bound`, which puts `∃ ans : ℝ` **inside** the `∀ ε`. Either
  make the answer a function of `ε`, or fold the headline into that variant.

---

# Part B — `green_35`

- [ ] **`green_35.lower` and `green_35.upper` have inert answer slots** —
  https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/GreensOpenProblems/35.lean#L53-L66

  ```lean
  theorem green_35.lower :
      let lb : ℝ≥0∞ → ℝ≥0∞ := answer(sorry)
      (∀ p, 1 < p → lb p ≤ c p) ∧
        (ENNReal.ofReal (Real.sqrt (4 / 7)) < c 2 ∨ 0.64 < c ∞) := by sorry
  ```

  The second conjunct — the entire mathematical content — does not mention `lb`, and the first
  is unconditionally true at `lb := 0` because the codomain is `ℝ≥0∞`. So the declaration is
  *equivalent to the bare disjunction*, independently of what is put in the slot. This is not
  the "trivial but uninteresting answer" case: the slot carries no information under **any**
  answer.

  ```lean
  theorem g35_lower_first_conjunct (c : ℝ≥0∞ → ℝ≥0∞) :
      ∀ p : ℝ≥0∞, 1 < p → (0 : ℝ≥0∞ → ℝ≥0∞) p ≤ c p := fun p _ => by simp
  ```

  `green_35.upper` is one step weaker but the same shape: `ub` is pinned only at `⊤`, so the
  declaration is equivalent to `c ∞ < 0.7505`.

  ```lean
  theorem g35_upper_shape (c : ℝ≥0∞ → ℝ≥0∞) (h : c ⊤ < 0.7505) :
      ∃ ub : ℝ≥0∞ → ℝ≥0∞, (∀ p : ℝ≥0∞, 1 < p → c p ≤ ub p) ∧ ub ⊤ < 0.7505 :=
    ⟨fun p => if p = ⊤ then c ⊤ else ⊤, by
      intro p _
      by_cases hp : p = ⊤ <;> simp [hp], by simp [h]⟩
  ```

- [ ] **`green_35.upper` is answerable from Green's own Update 2025.** Fetched from
  https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf today (HTTP 200, 839,479 bytes,
  MD5 `b82b1358949e0e09db84ca3ba1f5e4bd`), Problem 35's comments read, verbatim:

  > The best-known upper bound is *c*∞ ⩽ 0.75049… and this appears in Matolcsi and Vinuesa
  > [224]. … **Update 2025.** An AI-based approach [313] has slightly improved the upper bound
  > of Matolcsi and Vinuesa to *c*∞ ⩽ **0.75026**.

  Reference [313] is *Google DeepMind, AlphaEvolve: A coding agent for scientific and
  algorithmic discovery*. Since `0.75026 < 0.7505`, the declaration's own request — a `ub` with
  `ub ∞ < 0.7505` — is met by the published literature the file already cites. The file's
  `variants.c_inf_upper : c ∞ ≤ 0.7505` also records only the superseded Matolcsi–Vinuesa
  bound. I have not checked whether AlphaEvolve's `0.75026` has been independently verified
  beyond Green's own record of it, so "mark solved" may or may not be the right resolution;
  at minimum `variants` should carry the current bound.

---

## Duplicate check

Full-corpus offline sweep (1747 issues, 3237 PRs with per-PR file lists) matched on
declaration name, spaced problem name ("Green 24" as well as `green_24` — GitHub tokenises
underscores) and changed file path, plus a read of #4896, #4923 and #4927 in full. None of the
seven items above appears in any issue. The only open PRs touching these files are #4943
(`green_37_bigO` / `green_37_littleO`, explicitly leaving `green_37`, `green_37_asymptotic` and
`green_37_theta` alone), #4549 (links a formal proof for `green_27.variants.upper_be23`) and
#4004 (docstring LaTeX).

## Relationship to the C₅[K₄] campaign

Found while auditing `research open` declarations in the non-Wikipedia collections. Triage of
all 131 targets, per-item derivations and the duplicate search:

https://github.com/Kuberwastaken/c5-k4/blob/aa598efc894f2ab9628ccd8019b41318f20111ac/results/expansion/live-search-2026-08-15/other-corpora-scan.md

## AI assistance disclosure

Prepared with AI assistance (Claude, Anthropic) for the audit, the Lean witnesses and drafting.
The submitter reviewed each declaration, each proof, and each suggested repair, and takes
responsibility for the submission.

### Choose either option
- [x] I plan on working on this issue
- [ ] This issue is up for grabs: I would like to see this misformalization fixed by somebody else

**Comment by j2d9w5xtjn-png** [comment]
A note on the `green_41` item, in case someone picks it up.

The suggested fix is to fold the headline into `green_41.variants.exists_better_bound`, "which puts
`∃ ans : ℝ` **inside** the `∀ ε`". That does fix the answer-slot scoping, but it lands on a
statement that is already true for a trivial reason, so it would not leave a meaningful open
question behind.

`exists_better_bound` asks for some `ans` with `minCopies ε ≤ ans < exp³(ε^(-C))` where `C` is
existentially quantified *in the same statement*. So one can take the recorded Kravitz–Leng bound
itself as `ans` and simply enlarge the exponent: with `C' = max C 0 + 1 > C` and `0 < ε < 1`,

```
ε^(-C) < ε^(-C')
```

since `t ↦ ε^t` is strictly decreasing for `0 < ε < 1`; three applications of monotonicity of `exp`
give the strict inequality. No asymptotic improvement is involved. I have put a complete Lean proof
of this in #5553, which marks the variant solved with `answer(True)` and records the defect in its
docstring.

So this file needs *two* different repairs, not one: the headline's answer slot (this issue's
finding, which stands), and a formulation of "can you beat [KrLe25]" that is not vacuous. For the
latter the comparison constant has to be fixed *before* `ans` is chosen — for instance quantifying
over every `C` admissible for [KrLe25] and asking for a bound below `exp³(ε^(-C))` for that same
`C`. I deliberately did not bundle such a reformulation into #5553, to keep it to the one defect.

Separately, and unrelated to the answer-slot question: the density argument sketched here for
`minCopies ε ≥ ⌈1/(2ε)⌉` looks right to me, and would also rule out the closed-answer reading of
the headline directly.

*AI assistance: the vacuity of `exists_better_bound` was found by an OpenAI Codex agent during a
repository-wide sweep; the proof above was verified with Claude Opus 5.*
